US04349674
Carbamimidothioic acid(3-methyl-2-quinoxalinyl)ester, hydrochloride
2-Chloro-3-methylquinoxaline (10.72 g., 0.06 mole) was dissolved in 150 ml. of acetone, treated with Norit and filtered. The filtrate was added to 4.56 g. (0.06 mole) of thiourea in 150 ml. acetone. The solution was stirred at reflux under nitrogen for 2 hours. The precipitate which began to form after 5 minutes, was filtered while the reaction mixture was hot. The solid was collected, washed with hot acetone and dried to give 11.85 g. of a pink solid, m.p. 156°-157° C.

reactant | 2-Chloro-3-methylquinoxaline | 0.06 mole, 10.72 g | ClC1=NC2=CC=CC=C2N=C1C | C9H7ClN2
reactant | Norit | C | CH4
reactant | thiourea | 0.06 mole | NC(=S)N | CH4N2S
solvent | acetone | CC(=O)C | C3H6O
product | Carbamimidothioic acid(3-methyl-2-quinoxalinyl)ester, hydrochloride | Cl.CC=1C(=NC2=CC=CC=C2N1)SC(N)=N | InChI=1S/C10H10N4S.ClH/c1-6-9(15-10(11)12)14-8-5-3-2-4-7(8)13-6;/h2-5H,1H3,(H3,11,12);1H
